US08877739B2
Synthesis of O-{[(3-sulfophenyl)amino]carbonyl}-L-serine (Compound No. 13)
Boc-Ser-OtBu (200 mg, 0.77 mmol) was dissolved in 3 ml of methylene chloride and cooled to 0° C. N,N′-Carbonyldiimidazole (124 mg, 0.77 mmol) was added to the solution and stirred at room temperature for 2 hours. After the solvent was removed by distillation, 3-aminobenzenesulfonic acid (132.6 mg, 0.77 mmol), 2 ml of DMF and 0.4 ml of diisopropylethylamine were added and stirred at 70° C. overnight. The solvent was removed by distillation and the mixture was purified according to the purification step A to give the intermediate. The resulting intermediate was dissolved in 1 ml of TFA and stirred at room temperature for 2 hours. The solvent was removed by distillation, and the mixture was purified according to the purification step A to give the title compound.

reactant | Boc-Ser-OtBu | 0.77 mmol, 200 mg | N([C@@H](CO)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C12H23NO5
reactant | 3-aminobenzenesulfonic acid | 0.77 mmol, 132.6 mg | NC=1C=C(C=CC1)S(=O)(=O)O | C6H7NO3S
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | diisopropylethylamine | 0.4 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | O-{[(3-sulfophenyl)amino]carbonyl}-L-serine | yield: 0.6% | S(=O)(=O)(O)C=1C=C(C=CC1)NC(=O)OC[C@H](N)C(=O)O | C10H12N2O7S
